Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Choledocolithiasis
 
Major Surgical or Invasive Procedure:
___ ERCP
___ ERCP
___ ERCP

 
History of Present Illness:
___ year old Female who is transferred from ___ with 
choledocolithasis for ERCP. The patient has no significant 
medical history, notes one week of anorexia and jaundice. She 
notes some weight loss over the week due to the anorexia. She 
states when she eats she gets some pain more located in the RUQ, 
but denies nausea or vomiting. She denies any fevers over the 
week. She notes her urine has gotten progressively darker over 
the week. She called her PCP who said to come into the office on 
___ but she felt she could not wait that long.

She went to ___ and was noted with transaminitis, and had 
an ultrasound in the ED which noted choledocolithasis. She is 
transferred for ERCP.

In the ___ her initial vitals were 98.2, 68, 134/86, 18, 
100%. ERCP was notified
 
Past Medical History:
None
 
Social History:
___
Family History:
Mother: ___, HTN
Father: Unknown
 
Physical ___:
ADMISSION PHYSICAL EXAM:
======================
VSS: 98.1, 137/69, 61, 18, 100%RA
 GEN: NAD
 Pain: ___
 HEENT: Icteric sclera, EOMI, MMM, - OP Lesions
 PUL: CTA B/L
 COR: RRR, S1/S2, - MRG
 ABD: Mild TTP RUQ, - rebound, - guarding, ND, +BS, - CVAT
 EXT: - CCE
 NEURO: CAOx3, Non-Focal

DISCHARGE PHYSICAL EXAM:
======================
VS: 98.7 PO 129 / 66 66 18 99 ra 
GEN: tired appearing female in NAD sitting up in chair
HEENT: NCAT, sclera with trace icterus, EOMI, MMM, OP clear
PUL: CTA B/L, respirations unlabored
COR: RRR, S1/S2, no m/r/g
ABD: soft, NTND, no rebound/guarding, + bowel sounds
EXT: no CCE
NEURO: AOx3, Non-Focal
PSYCH: normal affect and appropriately interactive
GU: no foley, otherwise deferred
Skin: no rashes
 
Pertinent Results:
___ LABS
=============
CBC: 4.4/12.6/35.9/2/203
CHEM: 140/4.8/99/29/133/8/0.9
LFT: ___
COAG: 1.09/29.4

IMAGING/STUDIES
==============
___ ERCP
Findings:
Esophagus:Limited exam of the esophagus was normal
Stomach:Limited exam of the stomach was normal
Duodenum:Limited exam of the duodenum was normal
Major Papilla:The major papilla was located under some 
redundant duodenal folds and was difficult to approach in a 
stable, short scope position. 
Cannulation: Cannulation of the biliary duct could be achieved 
only superficially with the sphincterotome using a free-hand 
technique. Contrast medium was injected resulting in partial 
opacification. The procedure was highly difficult.   
Biliary Tree:A moderate diffuse dilation was seen at the 
biliary tree with a 7mm obstructing stone noted in the distal 
bile duct. 
Pancreas:Limited opacification of the PD was normal. 

___ ERCP
Findings:
Esophagus:Limited exam of the esophagus was normal
Stomach:Limited exam of the stomach was normal
Duodenum:Limited exam of the duodenum was normal
Major Papilla:Evidence of a previous sphincterotomy was noted 
in the major papilla. 
Cannulation:  
Biliary Tree/fluoroscopic Interpretation:The scout film was 
normal. There was evidence of the previous sphincterotomy with 
mild oozing. Biliary cannulation was not feasible after multiple 
attempts. Due to the known choledocholithiasis, worsening 
bilirubin and failed prior ERCP cannulation, the decision was 
made to proceed with an endoscopic ultrasound guided biliary 
drainage under fluoroscopy. The duodenoscope was exchanged for 
the linear EUS scope. The biliary system was visualized from the 
duodenum, with doppler determining vascular structures. The 
common bile duct was identified from the duodenal bulb. There 
was a hyperechoic foci consistent with a stone within the common 
bile duct. The bile duct was punctured using a Covidien 19-gauge 
needle system. A ___ 450 cm Jagwire was introduced 
via the needle system. The jagwire could not be advanced hence 
we changed to a Covidien 22 gauge needle system with a 450 
visiglide guidewire. Unable to advance. The ___ 
19-gauge needle system with an Olympus 450cm angled visiglide 
0.025 inch guidewire was introduced successsfully through the 
bulb into the common bile duct. The guidewire was then advanced 
via the CBD into the duodenum. The EUS scope and the needle were 
withdrawn while maintianing the guidewire in place. The 
duodenoscope was reinstered along the EUS placed guidewire to 
the ampulla where the EUS-placed guidewire exits from the 
biliary orifice. The distal end of the guidewire was grasped 
with a snare and the guidewire was pulled out through the mouth 
through the accesory channel. With the duodenoscope still in the 
duodenum, the sphincterotome was backloaded over the guidewire, 
then re-advanced through the accessory channel and the biliary 
tree was cannulated. The guidewire was then pulled into the 
sphincterome via the bile duct from the mouth.  The bile duct 
was deeply cannulated with the sphincterotome. Contrast was 
injected and there was brisk flow through the ducts. Contrast 
extended to the entire biliary tree. The CBD was 10mm in 
diameter.A filling defects consistent with a stone was 
identified in the CBD and CHD. The left and right hepatic ducts 
and all intrahepatic branches were normal. The biliary tree was 
swept with a 9-12mm balloon starting at the bifurcation.A stone 
was removed. The CBD and CHD were swept repeatedly until no 
further stones were seen. Due to the mild oozing from prior 
sphincterotomy, the decision was made to place a metal stent. A 
___ Wallflex biliary fully covered 8mm X 60 mm 
biliary stent was placed successfully. ___ ___, REF 
___, ___. Excellent bile and contrast drainage 
was seen endoscopically and fluoroscopically. 

___ ERCP
Findings:
Esophagus:Limited exam of the esophagus was normal
Stomach:Limited exam of the stomach was normal
Duodenum:Limited exam of the duodenum was normal
Major Papilla:Evidence of a previous sphincterotomy was noted 
in the major papilla. There was evidence of a small ulcer with 
red spots but no evidence of bleeding or oozing. Due to drop in 
hematocrit a decision to proceed with Epinephrine injection was 
made. Six cc were injected lateraly to the ulcer The patient 
tolerated the procedure well  

DISCHARGE LABS
==============
___ 05:53AM BLOOD WBC-5.0 RBC-2.77* Hgb-8.3* Hct-24.9* 
MCV-90 MCH-30.0 MCHC-33.3 RDW-13.3 RDWSD-44.0 Plt ___
___ 05:53AM BLOOD Glucose-102* UreaN-7 Creat-0.8 Na-138 
K-4.1 Cl-99 HCO3-31 AnGap-12
___ 05:53AM BLOOD ALT-446* AST-206* AlkPhos-305* 
TotBili-2.9*
___ 05:53AM BLOOD Calcium-8.9 Phos-4.1 Mg-1.___ without any significant PMHx who presents from ___ for 
ERCP evaluation for choledocholithiasis; her hospital course was 
complicated by GI bleed, improved and stable upon discharge.

# Biliary obstruction
# Choledocholithasis
Patient with significant admission transaminitis and 
hyperbilirubinemia (predominantly direct) and imaging findings 
c/w choledocholithiasis.  S/p ERCP attempt on ___ 
sphincterotomy performed but CBD stone unable to be extracted. 
Repeat ERCP on ___ with successful extraction of CBD stones 
and metal stent placement.  Given burden of stones seen in CBD, 
patient considered high risk for cholecystitis.  Pt was 
evaluated by ___ and given recent GI 
bleed associated with ERCP, will be seen in Surgery Clinic for 
outpatient evaluation for lap CCY.

# Melena/Upper GI bleed/Acute blood loss anemia:  Following the 
patient's ___ ERCP intervention developed melena concerning for 
UGIB in the setting of recent procedure.  S/p ___ ERCP/EGD on 
___ without any evidence of a source of active bleeding.  Epi 
was injected to areas of ulceration around metal stent 
placement.  Bleeding subsided and the patient had serial stable 
Hgb.  She was hemodynamically stable throughout and transitioned 
from IV PPI to PO PPI.  Her Hgb at discharge was 8.3 from a 
normal baseline.
- repeat CBC recommended at next follow up apt
- PPI x 30 days

***TRANSITIONAL ISSUES***
- ERCP f/u with Dr. ___ in 4 weeks for metal stent pull
- outpatient f/u with Dr. ___ for 
consideration of laparoscopic CCY
- repeat LFTs, CBC at next outpatient apt with PCP

 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. Vitamin B Complex 1 CAP PO DAILY 
2. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*30 Tablet Refills:*0 
2.  Vitamin D 1000 UNIT PO DAILY  
3.  Vitamin B Complex 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
choledocholithiasis
gastrointestinal bleed
acute blood loss anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at ___ 
___.  You were admitted to the hospital because of 
abdominal pain.  We found that you had stones in your bile duct 
for which you had to undergo a procedure called ERCP to remove 
the stones.  Because of your procedure, you also had to have a 
metal stent placed in your bile duct.  Because of your 
procedure, you should avoid medications like aspirin and 
ibuprofen when you return home.

Your abdominal pain improved, but after the procedure you 
developed bleeding in your stools.  You underwent another ERCP 
procedure to try to assess the source of your bleeding.  There 
was no active bleeding seen during the procedure.  Your blood 
counts have been stable and you have not required any blood 
transfusions.  You are now stable for discharge.

Please follow-up with your outpatient providers as instructed 
below.

Thank you for allowing us to participate in your care.  All best 
wishes for your recovery.

Sincerely,
Your ___ medical team
 
Followup Instructions:
___